US09029536B2
A) Methyl 1-ethyl-4-nitro-1H-pyrazole-5-carboxylate
A mixture of methyl 4-nitro-1H-pyrazole-3-carboxylate (5.0 g), EtI (2.8 mL) and K2CO3 (8.1 g) in acetone (50 mL) was stirred at 50° C. for 4 h. After stirring at room temperature overnight, the mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (2.2 g).

reactant | methyl 4-nitro-1H-pyrazole-3-carboxylate | 5.0 g | [N+](=O)([O-])C=1C(=NNC1)C(=O)OC | C5H5N3O4
reactant | EtI | 2.8 mL | C(C)I | C2H5I
reactant | K2CO3 | 8.1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | Methyl 1-ethyl-4-nitro-1H-pyrazole-5-carboxylate | 2.2 g | C(C)N1N=CC(=C1C(=O)OC)[N+](=O)[O-] | C7H9N3O4
